*** No Capacitors, Feedback Resistor 1 ON ***
XU1 0 6 3 7 4 1 2 LT1008
V1 3 0 15
V2 0 7 15
V3 5 0 SINE(0 0.1 1k)
Rf1 6 4 50k
Rf2 0 0 1k
Ri 6 5 1k
C1 0 0 30p
C2 0 0 10p
C3 0 0 20p
* DIGOUTPUT0_PRE = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_PRE = 0 0 0 1 0 0 0 0
* DIGOUTPUT0_POST = 1 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 1 0 0 0 0
* AOUTPUT0_PRE = 0.0
* AOUTPUT1_PRE = 0.0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** No Capacitors, Feedback Resistor 2 ON ***
XU1 0 6 3 7 4 1 2 LT1008
V1 3 0 15
V2 0 7 15
V3 5 0 SINE(0 0.1 1k)
Rf1 0 0 50k
Rf2 6 4 1k
Ri 6 5 1k
C1 0 0 30p
C2 0 0 10p
C3 0 0 20p
* DIGOUTPUT0_PRE = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_PRE = 0 0 0 1 0 0 0 0
* DIGOUTPUT0_POST = 1 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 1 0 0 0 0
* AOUTPUT0_PRE = 0.0
* AOUTPUT1_PRE = 0.0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0 
*** Capacitor 1 ON, All other Capacitors OFF, Feedback Resistor 1 ON ***
XU1 0 6 3 7 4 1 2 LT1008
V1 3 0 15
V2 0 7 15
V3 5 0 SINE(0 0.1 1k)
Rf1 6 4 50k
Rf2 0 0 1k
Ri 6 5 1k
C1 1 2 30p
C2 0 0 10p
C3 0 0 20p
* DIGOUTPUT0_PRE = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_PRE = 0 0 0 1 0 0 0 0
* DIGOUTPUT0_POST = 1 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 1 0 0 0 0
* AOUTPUT0_PRE = 0.0
* AOUTPUT1_PRE = 0.0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** Capacitor 2 ON, All other Capacitors OFF, Feedback Resistor 1 ON ***
XU1 0 6 3 7 4 1 2 LT1008
V1 3 0 15
V2 0 7 15
V3 5 0 SINE(0 0.1 1k)
Rf1 6 4 50k
Rf2 0 0 1k
Ri 6 5 1k
C1 0 0 30p
C2 1 2 10p
C3 0 0 20p
* DIGOUTPUT0_PRE = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_PRE = 0 0 0 1 0 0 0 0
* DIGOUTPUT0_POST = 1 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 1 0 0 0 0
* AOUTPUT0_PRE = 0.0
* AOUTPUT1_PRE = 0.0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** Capacitor 3 ON, All other Capacitors OFF, Feedback Resistor 1 ON ***
XU1 0 6 3 7 4 1 2 LT1008
V1 3 0 15
V2 0 7 15
V3 5 0 SINE(0 0.1 1k)
Rf1 6 4 50k
Rf2 0 0 1k
Ri 6 5 1k
C1 0 0 30p
C2 0 0 10p
C3 1 2 20p
* DIGOUTPUT0_PRE = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_PRE = 0 0 0 1 0 0 0 0
* DIGOUTPUT0_POST = 1 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 1 0 0 0 0
* AOUTPUT0_PRE = 0.0
* AOUTPUT1_PRE = 0.0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** Capacitor 1 ON, All other Capacitors OFF, Feedback Resistor 2 ON ***
XU1 0 6 3 7 4 1 2 LT1008
V1 3 0 15
V2 0 7 15
V3 5 0 SINE(0 0.1 1k)
Rf1 0 0 50k
Rf2 6 4 1k
Ri 6 5 1k
C1 1 2 30p
C2 0 0 10p
C3 0 0 20p
* DIGOUTPUT0_PRE = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_PRE = 0 0 0 1 0 0 0 0
* DIGOUTPUT0_POST = 1 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 1 0 0 0 0
* AOUTPUT0_PRE = 0.0
* AOUTPUT1_PRE = 0.0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** Capacitor 2 ON, All other Capacitors OFF, Feedback Resistor 2 ON ***
XU1 0 6 3 7 4 1 2 LT1008
V1 3 0 15
V2 0 7 15
V3 5 0 SINE(0 0.1 1k)
Rf1 0 0 50k
Rf2 6 4 1k
Ri 6 5 1k
C1 0 0 30p
C2 1 2 10p
C3 0 0 20p
* DIGOUTPUT0_PRE = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_PRE = 0 0 0 1 0 0 0 0
* DIGOUTPUT0_POST = 1 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 1 0 0 0 0
* AOUTPUT0_PRE = 0.0
* AOUTPUT1_PRE = 0.0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** Capacitor 3 ON, All other Capacitors OFF, Feedback Resistor 2 ON ***
XU1 0 6 3 7 4 1 2 LT1008
V1 3 0 15
V2 0 7 15
V3 5 0 SINE(0 0.1 1k)
Rf1 0 0 50k
Rf2 6 4 1k
Ri 6 5 1k
C1 0 0 30p
C2 0 0 10p
C3 1 2 20p
* DIGOUTPUT0_PRE = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_PRE = 0 0 0 1 0 0 0 0
* DIGOUTPUT0_POST = 1 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 1 0 0 0 0
* AOUTPUT0_PRE = 0.0
* AOUTPUT1_PRE = 0.0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0